US07579488B2
C. 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-ethyl-phenyl]-ethylpropyl}-benzofuran-5-carboxylic acid.
A solution of 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-ethyl-phenyl]-ethylpropyl}-benzofuran-5-carboxylic acid methyl ester (1.64 g, 3.53 mmol) in methanol (5.0 mL) and THF (5.0 mL) is treated with NaOH (2.0 M, 10 mL). The resulting mixture is stirred at RT for 12 h. The mixture is concentrated and neutralized with HCl (5 N) until pH˜3, and extracted with EtOAc (3×30 mL). The organic layer is dried over Na2SO4, concentrated to afford the title compound (1.57 g, 99%).

reactant | 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-ethyl-phenyl]-ethylpropyl}-benzofuran-5-carboxylic acid methyl ester | 3.53 mmol, 1.64 g | COC(=O)C=1C=CC2=C(C=C(O2)C(CC)C(C)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)CC)C1 | C29H36O5
reactant | NaOH | 2.0 M, 10 mL | [OH-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-ethyl-phenyl]-ethylpropyl}-benzofuran-5-carboxylic acid | 1.57 g, 99% | CC(C(COC1=C(C=C(C=C1)C(C)C(CC)C=1OC2=C(C1)C=C(C=C2)C(=O)O)CC)=O)(C)C | C28H34O5
